US06136831
6-Methyl-2-(1-hydroxyethyl)benzoxazole as the starting material was reacted with pyridinium chlorochromate in the same manner as in Reference Example 1 (4) iii) to obtain 2-acetyl-6-methylbenzoxazole (yield, 20%).

reactant | 6-Methyl-2-(1-hydroxyethyl)benzoxazole | CC1=CC2=C(N=C(O2)C(C)O)C=C1 | C10H11NO2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 2-acetyl-6-methylbenzoxazole | 20% | C(C)(=O)C=1OC2=C(N1)C=CC(=C2)C | C10H9NO2
